US08614226B2
A slurry of 161 mg (0.50 mmol) 3-bromo-5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridine, 167 mg (0.55 mmol) 2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid and 50.4 mg (0.6 mmol) sodium bicarbonate in 2 ml DMF and 0.5 ml water was heated at 80° C. under nitrogen. Then 7.0 mg (0.01 mmol) bis-(triphenylphosphine)-palladium(II)-chloride were added. The reaction mixture was stirred for 40 hours at 80° C. Water was added, the resulting precipitate was filtered off and washed with water. The residue was chromatographed on a silica gel column with dichloromethane/methanol as eluent yielding 2-(5-Chloro-2-fluoro-phenyl)-4-{5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridin-3-yl}-[1,8]naphthyridine as colourless crystals; HPLC-MS: 1.67 min, [M+H] 499.

reactant | 3-bromo-5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridine | 0.50 mmol, 161 mg | BrC=1C=NC=C(C1)C=1C=NN(C1)CCN1CCCC1 | C14H17BrN4
reactant | 2-(5-Chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid | 0.55 mmol, 167 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)B(O)O)F | C14H9BClFN2O2
reactant | sodium bicarbonate | 0.6 mmol, 50.4 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 0.5 ml | O | H2O
catalyst | bis-(triphenylphosphine)-palladium(II)-chloride | 0.01 mmol, 7.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(5-Chloro-2-fluoro-phenyl)-4-{5-[1-(2-pyrrolidin-1-yl-ethyl)-1H-pyrazol-4-yl]-pyridin-3-yl}-[1,8]naphthyridine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=NC=C(C1)C=1C=NN(C1)CCN1CCCC1)F | C28H24ClFN6
